US04657916
Preparation of 4-benzyloxy-2-[11-(2-tetrahydropyranyloxy) undecyl] quinoline-N-oxide
In this example, 5 m moles of 4-benzyloxy-2-(11-hydroxyundecyl)-quinoline-N-oxide is dissolved in dichloromethane, and a catalytic amount of D-camphorsulfonic acid and 6 m moles of 2,3-dihydropyran are added thereto. The mixture is stirred at room temperature for 3 hours. Then, the reaction solution is washed with an aqueous sodium hydrogen carbonate solution and then with water, and dried over anhydrous sodium sulfate. The solvent is removed therefrom by distillation, and the residue is purified by silica gel column procedure, whereby the cationed compound is obtained as a colorless oily substance (yield: 82.3%).

reactant | 4-benzyloxy-2-(11-hydroxyundecyl)-quinoline-N-oxide | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCCO | C27H35NO3
reactant | D-camphorsulfonic acid | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | 2,3-dihydropyran | O1CCCC=C1 | C5H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-benzyloxy-2-[11-(2-tetrahydropyranyloxy) undecyl] quinoline-N-oxide | yield: 82.3% | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCCOC1OCCCC1 | C32H43NO4
